US05344843
A mixture of 4-[[2-(3-hydroxy)-2-naphthalenyloxy)ethyl]oxy]-alpha-oxobenzeneacetic acid methyl ester (0.065 g) in hot methanol (2 mL) plus tetrahydrofuran (5 mL) was treated with 1N sodium hydroxide (0.5 mL) and diluted with water. The organic solvent was removed under vacuum and the residue was mixed with water, acidified with excess 2N hydrochloric acid, and extracted with dichloromethane. The organic layer was dried (Na2SO4), filtered, and evaporated to give crude product. Crystallization from dichloromethane-diethyl ether provided 0.055 g of 4-[[2-(3-hydroxy-2-naphthalenyloxy) ethyl]oxy]-alpha-oxobenzeneacetic acid as a colorless solid, mp 191°-192° C.

reactant | alpha-oxobenzeneacetic acid methyl ester | 0.065 g | COC(C(C1=CC=CC=C1)=O)=O | C9H8O3
reactant | sodium hydroxide | 1N, 0.5 mL | [OH-].[Na+]
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | methanol | 2 mL | CO | CH4O
solvent | water | O | H2O
product | 4-[[2-(3-hydroxy-2-naphthalenyloxy) ethyl]oxy]-alpha-oxobenzeneacetic acid | 0.055 g | OC=1C(=CC2=CC=CC=C2C1)OCCOC1=CC=C(C=C1)C(C(=O)O)=O | C20H16O6
